US06492360B1
1-Chloro-6-methoxy-5-pyridin-4-ylethynyl-phthalazine
A suspension under N2 of 6-methoxy-5-pyridin-4-ylethynyl-2H-phthalazin-1-one (2.26 g,), prepared as described in example 141, in POCl3 (40 ml) was heated for 3 hours at 85° C., then dried. The residue was taken up in a saturated NaHCO3 solution up to alkalinity, then filtered and extracted with ethyl acetate. The solid was dissolved in a CH2Cl2/CH3OH/ethyl acetate mixture, dried over Na2SO4 and filtered. The solution was joined to the previous organic phase and dried to give a residue which was taken up in acetone and filtered yielding 1.5 g of the title compound (yield: 62%).

reactant | 6-methoxy-5-pyridin-4-ylethynyl-2H-phthalazin-1-one | 2.26 g | COC=1C(=C2C=NNC(C2=CC1)=O)C#CC1=CC=NC=C1 | C16H11N3O2
reactant | POCl3 | 40 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | acetone | CC(=O)C | C3H6O
product | 1-Chloro-6-methoxy-5-pyridin-4-ylethynyl-phthalazine | 1.5 g, yield: 62% | ClC1=NN=CC2=C(C(=CC=C12)OC)C#CC1=CC=NC=C1 | C16H10ClN3O
